2111-02-13 07:28:00 Physician Resident Progress Note
Chief Complaint: 75M with metastatic thyroid cancer here for palliative
   radiation tx
   24 Hour Events: none
   Allergies:
   No Known Drug Allergies
   Medications
   Methylprednisolone 125mg IV q8
   Heparin SQ
   Protonix 40 IV BID
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2111-2-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.7
   HR: 72 (71 - 96) bpm
   BP: 133/66(83){112/62(74) - 152/76(95)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                    150 mL
                  PO:
                                                                    150 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    275 mL
                                                                    825 mL
   Urine:
                                                                    275 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -825 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Lymphatic: neck mass unchanged
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), breathing comfortably
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   298 K/uL
   14.2 g/dL
   127 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.7 mEq/L
   16 mg/dL
   101 mEq/L
   139 mEq/L
   40.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2111-2-13**]  05:09 AM
   WBC
   9.3
   Hct
   40.3
   Plt
   298
   Cr
   0.9
   Glucose
   127
   Other labs: PT / PTT / INR:13.9/29.3/1.2, Ca++:10.0 mg/dL, Mg++:2.3
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   #. Respiratory failure (ppx)
   Patient with large mass known tracheal deviation. Plan for palliative
   radiation.  Had sx of viral URI at home, antibiotics not indicated.
   --Will consult IP in AM regarding ?role for tracheal stenting though
   unclear this would be feasible
   --Continue steroids in anticipation of radiation induced edema. Tx with
   PPI/insulin sliding scale while on steroids
   .
   #. Metastatic papillary thyroid cancer.
   --Radiation mapping today, may initiate radiation in afternoon
   .
   #. ?RIJ occlusion. Previously noted on [**2-7**] MRI neck. Likely [**2-7**]
   compression from neck mass.
   --Given large thyroid mass and concern for bleeding will hold off on
   anticoagulation .
   ICU Care
   Nutrition: NPO pending ?stent
   Glycemic Control:  insulin sliding scale
   Lines:
   20 Gauge - [**2111-2-12**] 06:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:  with wife his HCP
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2111-02-14 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2111-2-13**] 12:00 PM
   went to [**Hospital Ward Name 66**] 5 for mapping
 RADIATION THERAPY - At [**2111-2-13**] 03:00 PM
   Pt was transported from [**Hospital Ward Name 66**] 5 XRT mapping to [**Location (un) 109**] basement for XRT
 RADIATION THERAPY - At [**2111-2-13**] 04:00 PM
   returned from XRT
   Started soft diet; no stridor noted.  XRT scheduled for today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-14**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 66 (64 - 96) bpm
   BP: 113/68(78){107/65(78) - 145/87(97)} mmHg
   RR: 13 (9 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                    520 mL
                  PO:
                                                                    520 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    230 mL
   Urine:
                                                                  1,200 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -680 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   CV: RRR no m/r/g, S1S2
   Chest: Mild bibasilar crackles, clear B anteriorly
   Abdomen: Soft NTND, BS+
   Peripheral Vascular: 2+ DP BLE
   Skin:  Erythema at neck
   Neurologic: A&O x3
   Labs / Radiology
   360 K/uL
   13.1 g/dL
   160 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.2 mEq/L
   30 mg/dL
   101 mEq/L
   138 mEq/L
   37.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2111-2-13**]  05:09 AM
                             [**2111-2-14**]  05:03 AM
   WBC
   9.3
   12.9
   Hct
   40.3
   37.6
   Plt
   298
   360
   Cr
   0.9
   1.0
   Glucose
   127
   160
   Other labs: PT / PTT / INR:13.6/28.6/1.2, Ca++:10.0 mg/dL, Mg++:2.4
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   #. Respiratory failure:  Mass [**2-7**] metastatic papillary thyroid cancer.
   Now s/p XRT.  Stenting not currently indicated per IP.
   --Continue steroids in anticipation of radiation induced edema (can
   occur up to 3 days out from tx). Tx with PPI/insulin sliding scale
   while on steroids
   .
   #. Metastatic papillary thyroid cancer. S/p XRT, monitor for edema,
   stridor.  Review endocrine, rad-onc recs.
   .
   #. ?RIJ occlusion. Previously noted on [**2-7**] MRI neck. Likely [**2-7**]
   compression from neck mass.
   --Given large thyroid mass and concern for bleeding, as well as
   underlying etiology of mass compression, no current indication for
   anticoagulation .
   ICU Care
   Nutrition:  Soft diet
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2111-2-12**] 06:16 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: Now eating; may d/c pantoprazole
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU ; will stay in ICU for close monitoring given repeated
   XRTs scheduled

2111-02-15 07:09:00 Physician Resident Progress Note
Chief Complaint: 75M with metastatic thyroid cancer admitted for
   palliative radiation
   24 Hour Events:
   Got radiation treatment in AM
   Stopped supplemental O2, doing well
   Feels breathing is improved, swelling decreased, easier to swallow
   Plan for hiatus from radiation [**2-15**]
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Methylprednisolone 125mg IV q8
   Protonix, Insulin SS
   Heparin SQ
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: no dysphagia, tolerating liquid diet
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2111-2-15**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.4
   HR: 59 (59 - 92) bpm
   BP: 111/56(69){102/50(66) - 141/81(93)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
                  Total In:
                                                                  1,200 mL
                                                                    120 mL
   PO:
                                                                  1,200 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    680 mL
                                                                    120 mL
   Urine:
                                                                    680 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: neck mass
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   342 K/uL
   12.6 g/dL
   147 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.1 mEq/L
   30 mg/dL
   104 mEq/L
   142 mEq/L
   36.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2111-2-13**]  05:09 AM
                             [**2111-2-14**]  05:03 AM
                             [**2111-2-15**]  04:32 AM
   WBC
   9.3
   12.9
   17.5
   Hct
   40.3
   37.6
   36.3
   Plt
   298
   360
   342
   Cr
   0.9
   1.0
   0.9
   Glucose
   127
   160
   147
   Other labs: PT / PTT / INR:13.6/28.6/1.2, Ca++:9.7 mg/dL, Mg++:2.4
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   S/p radiation [**2-14**], no treatment planned today. Breathing comfortably on
   room air, tolerating POs. Continue steroids with PPI/sliding scale
   insulin.
 THYROID CANCER (MALIGNANT NEOPLASM)
   Endocrine recommendations appreciated
 Leukocytosis
   Likely reflects steroid treatment, patient afebrile. Does have
   persistent cough, but no diarrhea or dysuria. Does have bands on
   differential. Check urine, blood cx and repeat Pa/Lat CXR.  Could
   consider flu swab, though less likely given rhinorrhea at home.
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   internal jugular occlusion
   No anticoagulation given risk of bleeding and likely recurrence [**2-7**]
   mass effect
   ICU Care
   Nutrition: liquid/soft advance as tolerated
   Glycemic Control:  Comments: insulin sliding scale
   Lines:
   20 Gauge - [**2111-2-12**] 06:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2111-02-15 11:09:00 Physician Attending Progress Note
Chief Complaint: Tracheal compression
   HPI:
   24 Hour Events:
   Received XRT yesterday and had no events
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   SQ Heparin, Protonix, SoluMedrol 125mg Q8, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-15**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 75 (59 - 82) bpm
   BP: 120/64(77){102/50(66) - 148/81(93)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,200 mL
                                                                    511 mL
   PO:
                                                                  1,200 mL
                                                                    360 mL
   TF:
   IVF:
   151 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    270 mL
   Urine:
                                                                    680 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   342 K/uL
   147 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.1 mEq/L
   30 mg/dL
   104 mEq/L
   142 mEq/L
   36.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2111-2-13**]  05:09 AM
                             [**2111-2-14**]  05:03 AM
                             [**2111-2-15**]  04:32 AM
   WBC
   9.3
   12.9
   17.5
   Hct
   40.3
   37.6
   36.3
   Plt
   298
   360
   342
   Cr
   0.9
   1.0
   0.9
   Glucose
   127
   160
   147
   Other labs: PT / PTT / INR:13.6/28.6/1.2, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER: Receiving XRT, continue steroids
   w/ taper as per rad onc (Prednisone 60mg)
 THYROID CANCER (MALIGNANT NEOPLASM): Rad onc following
 LEUKOCYTOSIS: likely [**2-7**] steroids; will check CXR given cough (no
   other sxs - no dysuria or diarrhea, never had Foley catheter). Culture
   is spikes.
 IJ THROMBOSIS: No anticoagulation given bleeding risk
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-2-12**] 06:16 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : called out
   Total time spent: 30